US04282242
Methyl 5-(2,5-Dichlorophenylthio)pyrrole-3-carboxylate
Under a nitrogen atmosphere, methyl pyrrole-3-carboxylate (2.5 g., 20 mmoles) was dissolved in 50 ml. of methylene chloride and cooled with stirring in an ice-water bath. 2,5-Dichlorobenzenesulfenyl chloride (4.24 g., 20 mmoles) was added dropwise. The bath was removed and the reaction stirred for 1 hour at room temperature, at which time thin layer chromatography (silica gel with ethyl acetate-1/hexane-5/5% acetic acid as eluant) indicated that virtually all of the starting pyrrole ester had been consumed. An equal volume of ether was added, the mixture filtered and the filtrate evaporated in vacuo to a partially crystalline gum (5.2 g.). The latter was recrystallized from methylene chloride/hexane to yield purified methyl 5-(2,5-dichlorophenylthio)pyrrole-3-carboxylate (2.68 g., m.p. 162°-165° C.).

reactant | methyl pyrrole-3-carboxylate | 20 mmoles, 2.5 g | N1C=C(C=C1)C(=O)OC | C6H7NO2
reactant | 2,5-Dichlorobenzenesulfenyl chloride | 20 mmoles, 4.24 g | ClC1=C(C=C(C=C1)Cl)SCl | C6H3Cl3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 5-(2,5-Dichlorophenylthio)pyrrole-3-carboxylate | ClC1=C(C=C(C=C1)Cl)SC1=CC(=CN1)C(=O)OC | C12H9Cl2NO2S
